US06579983B1
4-(2-Aminopyridin-5-yl)-5-cyano-N-(4-fluorophenyl)pyrimidine-2-amine
To a suspension of 5-cyano-N-(4-fluorophenyl)-4-[2-(4-methoxy-benzylamino)pyridin-5-yl]pyrimidine-2-amine (104 mg, 0.24 mmol) in acetonitrile (4 mL), MeOH (2 mL) and dichloromethane (2 mL), was added dropwise a solution of ceric ammonium nitrate (133 mg, 0.24 mmol) in water (1 mL). After 0.5 h the reaction was poured into saturated NaHCO3 and extracted with CHCl2. The organic phase was dried (MgSO4) and concentrated under reduced pressure to give the title compound (42 mg) as a buff solid, m.p. 289°. δH (d6 DMSO) 9.93 (1H, s), 8.76 (1H, d, J 2.3 Hz), 8.74 (1H, s), 8.09 (1H, dd, J 8.8, 2.5 Hz), 7.77-7.73 (2H, bm), 7.18-7.13 (2H, m), 6.85 (1H, s) and 6.63 (1H, d, J 8.8 Hz).

reactant | 5-cyano-N-(4-fluorophenyl)-4-[2-(4-methoxy-benzylamino)pyridin-5-yl]pyrimidine-2-amine | 0.24 mmol, 104 mg | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)F)C=1C=CC(=NC1)NCC1=CC=C(C=C1)OC | C24H19FN6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | MeOH | 2 mL | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | 4-(2-Aminopyridin-5-yl)-5-cyano-N-(4-fluorophenyl)pyrimidine-2-amine | 42 mg | NC1=NC=C(C=C1)C1=NC(=NC=C1C#N)NC1=CC=C(C=C1)F | C16H11FN6
